US04590324
This example illustrates the dehydrogenation of cumene and p-ethyltoluene using a diluent comprising steam and nitrogen. Three and three-tenths of the catalyst prepared in Example I, ground to 18 to 40 mesh, was employed in the reactor described in Example I. Initially p-ethyltoluene was flowed into the reactor at 0.38 liquid hourly space velocity, 11:1 diluent to p-ethyltoluene ratio (8:1 steam and 3:1 nitrogen) at 588° C. yielding a relatively poor conversion and selectivity. The catalyst was decoked with 5% oxygen and nitrogen for about 1 hr. Cumene was then run at 0.38 liquid hourly space velocity, 11:1 diluent ratio (8:1 steam and 3:1 nitrogen) at 588° C. providing 40% conversion to alphamethylstyrene and 88% selectivity. The feed was then switched from cumene to p-ethyltoluene using the same diluent dilution and conditions providing 22% conversion to p-methylstyrene and 93% selectivity. Conditions were then changed to 0.72 liquid hourly space velocity, 10:1 diluent ratio for the p-ethyltoluene (8:1 steam and 2:1 nitrogen) at 598° C. yielding 40% conversion and 92% selectivity to p-methylstyrene.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | p-ethyltoluene | C(C)C1=CC=C(C=C1)C | C9H12
product | p-methylstyrene | CC1=CC=C(C=C)C=C1 | C9H10
